US04440683
One dissolves diphenylmethyl α-[3-benzyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-hydroxy-ethylideneacetate (4.84 g) in tetrahydroufran (60 ml), cools to -20° C., adds triethylamine (2.84 ml) with stirring, adds dropwise methanesulfonyl chloride (0.82 ml) to the yellow solution, and lets react for 30 minutes. To the produced solution of diphenylmethyl α-[3-benzyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-methanesulfonyloxyethylidene)acetate, one adds morpholine (0.96 ml) at -40° C., stirs for 3.5 hours, adds pyridine (0.77 ml) to the produced solution of diphenylmethyl α-[3-benzyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-morpholinoethylidene)acetate, cools to -40° C., adds bromine (0.49 ml), and stirs for 30 minutes, to give diphenylmethyl α-[3-benzyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl] -α-(2-bromo-1-morpholinoethylidene)acetate. To this solution, one adds dropwise 5% hydrochloric acid (72 ml) and methanol (60 ml), stirs for 3 hours at room temperature, and keeps in a refrigerator overnight. The reaction mixture is evaporated to give residue which is dissolved in methylene chloride, washed with water, dried over sodium sulfate, and evaporated. Purification of the obtained residue (5.83 g) by chromatography over silica gel containing 10% water (150 g) gives from the fraction eluted with a mixture of benzene and ethyl acetate (4:1) diphenylmethyl 7-phenylacetamido-3-hydroxy-3-cephem-4-carboxylate (3.51 g) by recrystallization from n-hexane. m.p. 93°-96° C. Yield: 70%. IR: νmaxCHCl3 3410, 1782, 1674, 1610 cm-1. NMR: δCDCl3 3.20s2H, 3.64s2H, 4.97d(4 Hz)1H, 5.66dd(9:4)1H, 6.77d(9 Hz)1H, 6.90s1H, 7.35 ml 5H.

reactant | 1-hydroxy-ethylideneacetate | 4.84 g | OC(C)=CC(=O)[O-]
reactant | methanesulfonyl chloride | 0.82 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | diphenylmethyl α-[3-benzyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-methanesulfonyloxyethylidene)acetate | C(C1=CC=CC=C1)C1=NC2C(N(C2S1)C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=C(C)OS(=O)(=O)C)=O | C29H26N2O6S2
reactant | morpholine | 0.96 ml | N1CCOCC1 | C4H9NO
reactant | diphenylmethyl α-[3-benzyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-morpholinoethylidene)acetate | C(C1=CC=CC=C1)C1=NC2C(N(C2S1)C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=C(C)N1CCOCC1)=O | C32H31N3O4S
reactant | bromine | 0.49 ml | BrBr | Br2
solvent | pyridine | 0.77 ml | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 2.84 ml | C(C)N(CC)CC | C6H15N
product | diphenylmethyl α-[3-benzyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl] -α-(2-bromo-1-morpholinoethylidene)acetate | Yield: 70% | C(C1=CC=CC=C1)C1=NC2C(N(C2S1)C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=C(CBr)N1CCOCC1)=O | C32H30BrN3O4S
